US06608070B1
3-Chloro-4-ethyl-2-pyridinecarbonitrile:
The title compound was prepared from 3-chloro-4-ethylpyridine-N-oxide according to the procedure for preparing 4-chloro-2-pyridinecarbonitrile described in Example 33.

reactant | 3-chloro-4-ethylpyridine-N-oxide | ClC=1C=[N+](C=CC1CC)[O-] | C7H8ClNO
reactant | 4-chloro-2-pyridinecarbonitrile | ClC1=CC(=NC=C1)C#N | C6H3ClN2
product | 3-Chloro-4-ethyl-2-pyridinecarbonitrile | ClC=1C(=NC=CC1CC)C#N | C8H7ClN2
